US07714126B2
This compound was prepared with the same method described before by using 2-methoxy-1-methylethylamine and 2-chloro-5-nitro-pyridine to give N-(2-methoxy-1-methylethyl)-2-amino-5-nitro-pyridine. LCMS calcd for C9H13N3O3 m/e 211.22, obsd 210.2 (AP, M−H). The nitro compound was hydrogenated under the same condition described before to give N2-(2-methoxy-1-methylethyl)-2,5-diaminopyridine.

reactant | 2-methoxy-1-methylethylamine | COCC(C)N | C4H11NO
reactant | 2-chloro-5-nitro-pyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
product | N-(2-methoxy-1-methylethyl)-2-amino-5-nitro-pyridine | COCC(C)N1C(C=CC(=C1)[N+](=O)[O-])N | C9H15N3O3
